US06020345
Stage 2: 2-[1,3]dioxolan-2-yl-6-(1-fluoroethyl)pyridine
0.81 ml of diethylamine trifluorosulfide (6.14 mmol) is added to a solution of 0.60 g of 1-(6-[1,3]-dioxolan-2-yl-pyridin-2-yl)ethanol (3.07 mmol) in 25 ml of dichloromethane cooled to -78° C. and maintained under a nitrogen atmosphere. The mixture is stirred for 30 minutes at -78° C. and then for 2 hours at room temperature. The mixture is poured slowly into a 10% aqueous solution of sodium bicarbonate. The organic phase is dried over magnesium sulfate, filtered and the solvent is evaporated off. The title product is isolated by chromatography on a silica column (eluent: chloroform). 0.42 g of a yellow oil is obtained. Yield for the 2 stages combined: 53.4%

reactant | DAST | 6.14 mmol, 0.81 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | 1-(6-[1,3]-dioxolan-2-yl-pyridin-2-yl)ethanol | 3.07 mmol, 0.60 g | O1C(OCC1)C1=CC=CC(=N1)C(C)O | C10H13NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-[1,3]dioxolan-2-yl-6-(1-fluoroethyl)pyridine | O1C(OCC1)C1=NC(=CC=C1)C(C)F | C10H12FNO2
